### PR TITLE
[Merged by Bors] - chore: backports from #11997, adaptations for nightly-2024-04-07

### PR DESCRIPTION
**Pull request by kim-em**
These are changes from #11997, the latest adaptation PR for nightly-2024-04-07, which can be made directly on master.

### CODE REVIEW

File: Mathlib/Algebra/Polynomial/Basic.lean [hunk 1]
```diff
@@ -141,6 +141,11 @@ instance mul' : Mul R[X] :=
   ⟨mul⟩
 #align polynomial.has_mul Polynomial.mul'
 
+-- If the private definitions are accidentally exposes, simplify them away.
```
Comment (TwoFX) [inline Mathlib/Algebra/Polynomial/Basic.lean:144]:
```suggestion
-- If the private definitions are accidentally exposed, simplify them away.
```

File: Mathlib/Algebra/Polynomial/Basic.lean [hunk 2]
```diff
@@ -1190,7 +1196,7 @@ instance ring : Ring R[X] :=
     toIntCast := Polynomial.intCast
     toNeg := Polynomial.neg'
     toSub := Polynomial.sub
-    zsmul := ((· • ·) : ℤ → R[X] → R[X]) }
+    zsmul := ((. • .) : ℤ → R[X] → R[X]) }
```
Comment (TwoFX) [inline Mathlib/Algebra/Polynomial/Basic.lean:1199]: Are you partially reverting #12146 here and elsewhere?

File: Mathlib/Geometry/Manifold/Instances/Sphere.lean [hunk 3]
```diff
@@ -223,23 +223,34 @@ theorem stereo_left_inv (hv : ‖v‖ = 1) {x : sphere (0 : E) 1} (hx : (x : E)
...
+  have duh : ‖y.val‖ ^ 2 = 1 - a ^ 2 := by
+    rw [← Submodule.coe_norm, pythag]; ring
   -- two facts which will be helpful for clearing denominators in the main calculation
   have ha : 1 - a ≠ 0 := by
     have : a < 1 := (inner_lt_one_iff_real_of_norm_one hv (by simp)).mpr hx.symm
     linarith
   -- the core of the problem is these two algebraic identities:
   have h₁ : (2 ^ 2 / (1 - a) ^ 2 * ‖y‖ ^ 2 + 4)⁻¹ * 4 * (2 / (1 - a)) = 1 := by
-    field_simp; simp only [Submodule.coe_norm] at *; nlinarith
+    -- Porting note: used to be `field_simp; simp only [Submodule.coe_norm] at *; nlinarith`
```
Comment (TwoFX) [inline Mathlib/Geometry/Manifold/Instances/Sphere.lean:239]: Does this need a mathlib issue?

File: Mathlib/LinearAlgebra/BilinearMap.lean [hunk 4]
```diff
@@ -403,9 +403,16 @@ theorem lsmul_apply (r : R) (m : M) : lsmul R M r m = r • m := rfl
...
 
 variable (R M) in
-/-- For convenience, a shorthand for the type of bilinear forms from `M` to `R`. -/
+/-- For convenience, a shorthand for the type of bilinear forms from `M` to `R`.
+
+This should eventually replace `_root_.BilinForm`. -/
 protected abbrev BilinForm : Type _ := M →ₗ[R] M →ₗ[R] R
 
+/-- The restriction of a bilinear form to a submodule. -/
+abbrev _root_.Submodule.restrictBilinear (p : Submodule R M) (f : LinearMap.BilinForm R M) :
```
Comment (TwoFX) [inline Mathlib/LinearAlgebra/BilinearMap.lean:412]: Here you seem to be partially reverting #12045.

File: Mathlib/Algebra/Algebra/Bilinear.lean [hunk 5]
```diff
@@ -223,13 +223,13 @@ theorem mulRight_eq_zero_iff (a : A) : mulRight R a = 0 ↔ a = 0 := by
 @[simp]
 theorem mulLeft_one : mulLeft R (1 : A) = LinearMap.id := by
   ext
-  simp only [LinearMap.id_coe, one_mul, id.def, mulLeft_apply]
+  simp
```
Comment (grunweg) [inline Mathlib/Algebra/Algebra/Bilinear.lean:226]: Is this change intended or needed? A priori, doesn't seem like an improvement to me.

File: Mathlib/Algebra/Algebra/Bilinear.lean [hunk 6]
```diff
@@ -223,13 +223,13 @@ theorem mulRight_eq_zero_iff (a : A) : mulRight R a = 0 ↔ a = 0 := by
...
 #align linear_map.mul_left_one LinearMap.mulLeft_one
 
 @[simp]
 theorem mulRight_one : mulRight R (1 : A) = LinearMap.id := by
   ext
-  simp only [LinearMap.id_coe, mul_one, id.def, mulRight_apply]
+  simp
```
Comment (grunweg) [inline Mathlib/Algebra/Algebra/Bilinear.lean:232]: Same here.

File: Mathlib/Algebra/Polynomial/Basic.lean [hunk 7]
```diff
@@ -688,7 +691,9 @@ theorem toFinsupp_apply (f : R[X]) (i) : f.toFinsupp i = f.coeff i := by cases f
 #align polynomial.to_finsupp_apply Polynomial.toFinsupp_apply
 
 theorem coeff_monomial : coeff (monomial n a) m = if n = m then a else 0 := by
-  simp only [← ofFinsupp_single, coeff, LinearMap.coe_mk]
+  -- porting note (#10745): was `simp [← ofFinsupp_single, coeff, LinearMap.coe_mk]`.
```
Comment (grunweg) [inline Mathlib/Algebra/Polynomial/Basic.lean:694]: This reverts a recent change on master; please revert.

File: Mathlib/Algebra/Polynomial/Basic.lean [hunk 8]
```diff
@@ -954,7 +959,8 @@ theorem support_X (H : ¬(1 : R) = 0) : (X : R[X]).support = singleton 1 := by
 
 theorem monomial_left_inj {a : R} (ha : a ≠ 0) {i j : ℕ} :
     monomial i a = monomial j a ↔ i = j := by
-  simp only [← ofFinsupp_single, ofFinsupp.injEq, Finsupp.single_left_inj ha]
+  -- porting note (#10745): was `simp [← ofFinsupp_single, Finsupp.single_left_inj ha]`
```
Comment (grunweg) [inline Mathlib/Algebra/Polynomial/Basic.lean:962]: Please revert.

File: Mathlib/Geometry/Manifold/Instances/Sphere.lean [hunk 9]
```diff
@@ -223,23 +223,34 @@ theorem stereo_left_inv (hv : ‖v‖ = 1) {x : sphere (0 : E) 1} (hx : (x : E)
   have pythag : 1 = a ^ 2 + ‖y‖ ^ 2 := by
     have hvy' : ⟪a • v, y⟫_ℝ = 0 := by simp only [inner_smul_left, hvy, mul_zero]
     convert norm_add_sq_eq_norm_sq_add_norm_sq_of_inner_eq_zero _ _ hvy' using 2
-    · simp [← split]
+    -- porting note (#10745): was simp [← split] but wasn't finding `norm_eq_of_mem_sphere`
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/Instances/Sphere.lean:226]: Please revert.

File: Mathlib/Geometry/Manifold/Instances/Sphere.lean [hunk 10]
```diff
@@ -223,23 +223,34 @@ theorem stereo_left_inv (hv : ‖v‖ = 1) {x : sphere (0 : E) 1} (hx : (x : E)
...
+    · simp only [norm_eq_of_mem_sphere, Nat.cast_one, mul_one, ← split]
     · simp [norm_smul, hv, ← sq, sq_abs]
     · exact sq _
+  -- Porting note: added to work around cancel_denoms and nlinarith failures
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/Instances/Sphere.lean:230]: Please revert.

**Review by grunweg — COMMENTED** [review]
You're reverting a few changes from master. As it seems other people are also reviewing this, let me stop here :-)

File: Mathlib/Algebra/Polynomial/Basic.lean (hunk 2 above)
Comment (semorrison) [reply Mathlib/Algebra/Polynomial/Basic.lean:1199]: Yes, this file has lots of bad changes, I'm going to revert it. Sorry.

File: Mathlib/Geometry/Manifold/Instances/Sphere.lean (hunk 3 above)
Comment (semorrison) [reply Mathlib/Geometry/Manifold/Instances/Sphere.lean:239]: Sorry, this diff is junk, I'll start over on this file. :-(

File: Mathlib/Geometry/RingedSpace/PresheafedSpace/HasColimits.lean [hunk 11]
```diff
@@ -394,7 +394,7 @@ def colimitPresheafObjIsoComponentwiseLimit (F : J ⥤ PresheafedSpace.{_, _, v}
     refine' (F.obj (unop X)).presheaf.mapIso (eqToIso _)
     simp only [Functor.op_obj, unop_op, op_inj_iff, Opens.map_coe, SetLike.ext'_iff,
       Set.preimage_preimage]
-    refine congr_arg (Set.preimage · U.1) (funext fun x => ?_)
+    refine congr_arg (Set.preimage ⬝ U.1) (funext fun x => ?_)
```
Comment (grunweg) [inline Mathlib/Geometry/RingedSpace/PresheafedSpace/HasColimits.lean:397]: Is this one intentional?

**Review by grunweg — COMMENTED** [review]
Now, with my three remaining comments addressed, the diff looks plausible to me.

File: Mathlib/Algebra/Algebra/Bilinear.lean (hunk 5 above)
Comment (semorrison) [reply Mathlib/Algebra/Algebra/Bilinear.lean:226]: I made the change because on nightly-testing it needs changing as written, but if we just do the simpler thing of trusting `simp` to close the goal, the proof works as written on master and on nightly-testing.

`simp only` is not necessarily more robust!

**Review by TwoFX — APPROVED** [review]
bors d+

**Comment by semorrison** [comment]
bors merge

**Review by Ruben-VandeVelde — APPROVED** [review]
